US03962222
3a,4,6,7-Tetrahydro-N,N-dimethyl-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-propanamine-5,5-dioxide, hydrochloride (1:1)
3a,4,6,7-Tetrahydro-N,N-dimethyl-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-propanamine-5,5-dioxide (3.4g) is dissolved in 25ml of warm methyl ethyl ketone, cooled and treated with 1.35ml of 6.1N alcoholic hydrogen chloride. On seeding and rubbing, the crystalline hydrogen chloride salt separates. Ether is added to complete the precipitation and after cooling for about 16 hours the solid is filtered, washed with ether and dried in vacuo to give 3.5g of material, melting point 183°-185°C. Following crystallization from 20ml of methanol-40ml of ether, there remains 2.6g of the title compound, melting point 192°-194°C.

reactant | 3a,4,6,7-Tetrahydro-N,N-dimethyl-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-propanamine-5,5-dioxide | 3.4g | CN(CCCN1N=C2C(C1C1=CC=CC=C1)CS(CC2=CC2=CC=CC=C2)(=O)=O)C | C24H29N3O2S
reactant | hydrogen chloride | 6.1N, 1.35ml | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | methyl ethyl ketone | 25ml | C(C)C(=O)C | C4H8O
product | 3a,4,6,7-Tetrahydro-N,N-dimethyl-3-phenyl-7-(phenylmethylene)thiopyrano[4,3-c]pyrazole-2(3H)-propanamine-5,5-dioxide, hydrochloride | 3.5g | Cl.CN(CCCN1N=C2C(C1C1=CC=CC=C1)CS(CC2=CC2=CC=CC=C2)(=O)=O)C | InChI=1S/C24H29N3O2S.ClH/c1-26(2)14-9-15-27-24(20-12-7-4-8-13-20)22-18-30(28,29)17-21(23(22)25-27)16-19-10-5-3-6-11-19;/h3-8,10-13,16,22,24H,9,14-15,17-18H2,1-2H3;1H
